US08084471B2
1-(2-Benzyl-4-pyridyl)-4-methyl-1-pentanone (12)
Anhydrous Et2O (15 mL) was added to magnesium turnings (0.310 g, 12.8 mmol) in a flame-dried flask. Addition of one drop of dibromoethylene was followed by slow addition of 1-bromo-3-methylbutane (1.619 g, 10.7 mmol) in 10 mL of anhydrous Et2O at a rate that kept the reaction mixture under reflux. Once the addition was completed the reaction was refluxed for 1 h and cooled to RT. The mixture was then added via cannula to a solution of 2-benzyl-4-cyanopyridine (1.000 g, 5.1 mmol) in 15 mL of anhydrous Et2O at 0° C. The mixture was stirred at RT for 30 min. and then refluxed for 3 h. The solution was cooled down to RT, poured into 200 mL of 0.5M HCl, and stirred for 30 min. A solution of 1M NaOH was added dropwise until the solution reached pH 9 and the resulting mixture was then extracted with ether (×3), dried with Na2SO4 and concentrated under vacuum. The resulting dark oil was purified by flash chromatography using 1:4 EtOAc/Hexane to give a brown oil (0.801 g, 58%)

reactant | magnesium | 12.8 mmol, 0.310 g | [Mg] | Mg
reactant | 1-bromo-3-methylbutane | 10.7 mmol, 1.619 g | BrCCC(C)C | C5H11Br
reactant | 2-benzyl-4-cyanopyridine | 5.1 mmol, 1.000 g | C(C1=CC=CC=C1)C1=NC=CC(=C1)C#N | C13H10N2
reactant | HCl | 0.5M, 200 mL | Cl | ClH
reactant | NaOH | 1M | [OH-].[Na+]
catalyst | dibromoethylene | one drop | BrC=CBr | C2H2Br2
solvent | Et2O | 10 mL | CCOCC | C4H10O
solvent | Et2O | 15 mL | CCOCC | C4H10O
solvent | Et2O | 15 mL | CCOCC | C4H10O
product | 1-(2-Benzyl-4-pyridyl)-4-methyl-1-pentanone | 0.801 g, 58% | C(C1=CC=CC=C1)C1=NC=CC(=C1)C(CCC(C)C)=O | C18H21NO
